US08227801B2
Synthesis of 9-phenylcarbazole.
Pd2(dba)3 (1.095 g, 1.196 mmol) and tri-tert-butylphosphine (4.78 ml, 4.78 mmol, 1.0 M in toluene) were mixed in 400 mL of xylene. The mixture was stirred under N2 for 20 min. 9H-carbazole (20 g, 120 mmol), bromobenzene (28.2 g, 179 mmol), 18-Crown-6 (3.16 g, 11.96 mmol), and potassium carbonate (24.80 g, 179 mmol) were then added in sequence, and the mixture was heated to reflux under N2 for 18 h. The xylene solution was decanted. The solvent was evaporated and residue was purified by vacuum distillation. 22.3 g (97% yield) of product was obtained after purification.

reactant | 9H-carbazole | 120 mmol, 20 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | bromobenzene | 179 mmol, 28.2 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 18-Crown-6 | 11.96 mmol, 3.16 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 179 mmol, 24.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 400 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 1.196 mmol, 1.095 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-tert-butylphosphine | 4.78 mmol, 1.0 M, 4.78 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 9-phenylcarbazole | 22.3 g, 97% yield | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H13N
